US08859573B2
4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-5-fluoro-2(1H)-pyrimidinone
To a solution of 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-5-fluoro-2-[(phenylmethyl)oxy]pyrimidine (240 mg, 0,463 mmol) in methanol (10 mL) was added wet Pd/C (24.61 mg, 0.023 mmol), the suspension was charged with hydrogen and stirred for 30 min, then filtrated. The solvent was removed in vacuum afforded title product (150 mg). LC-MS (ESI): m/z 429[M+H]+; 4.22 min (ret time).

reactant | 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-5-fluoro-2-[(phenylmethyl)oxy]pyrimidine | 0,463 mmol, 240 mg | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=NC(=NC=C1F)OCC1=CC=CC=C1)C(F)(F)F | C26H19ClF4N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 0.023 mmol, 24.61 mg | [Pd] | Pd
product | 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-5-fluoro-2(1H)-pyrimidinone | 150 mg | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=NC(NC=C1F)=O)C(F)(F)F | C19H13ClF4N2O3
